US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-4-pyrimidinyl]-1-piperazinesulfonamide
To a solution of 4-[[[2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-4-pyrimidinyl]amino]sulfonyl]-1-piperazinecarboxylic acid-1,1-dimethylethyl ester (the product from step ii) (0.24 g) in DCM (2 mL) was added trifluoroacetic acid (2 mL) and the reaction mixture was stirred at ambient temperature for 2.5 h. The reaction mixture was evaporated, the residue was azeotroped with DCM (×2) and then purified by reverse phase HPLC eluting with acetonitrile/aq. 0.2% trifluoroacetic acid mixtures to give title compound as a white solid. Yield: 0.18 g

reactant | 4-[[[2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-4-pyrimidinyl]amino]sulfonyl]-1-piperazinecarboxylic acid-1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)NC1=NC(=NC(=C1)OCC)SCC1=C(C(=CC=C1)F)F | C22H29F2N5O5S2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-ethoxy-4-pyrimidinyl]-1-piperazinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCNCC1)OCC | C17H21F2N5O3S2
